US07645760B2
d) N-(5-Chloro-2-[(E)-3-[(2R,5S)-4-(4-fluorobenzyl)-2,5-dimethylpiperazin-1-yl]-3-oxopropenyl]-4-methoxyphenyl)-methanesulfonamide
(E)-3-(4-Chloro-2-methanesulfonylamino-5-methoxyphenyl)-acrylic acid (100 mg; 0.32 mmol), (2R,5S)-1-(4-fluorobenzyl)-2,5-dimethylpiperazine (Mavunkel, Babu J. et al., WO 00171535) (73 mg; 0.32 mmol) and EDCl.HCl (75 mg, 0.39 mmol), HOBt (5 mg; 0.03 mmol) were dissolved in DMF (2 ml) and stirred over night. The reaction mixture was evaporated, taken up in 2N Na2CO3 and extracted with EtOAc three times. The combined organic phases were evaporated and purified via chromatography (SiO2 acetone/hexanes 3/7) to yield the title compound as yellow foam (135 mg; 81%)

reactant | (E)-3-(4-Chloro-2-methanesulfonylamino-5-methoxyphenyl)-acrylic acid | 0.32 mmol, 100 mg | ClC1=CC(=C(C=C1OC)/C=C/C(=O)O)NS(=O)(=O)C | C11H12ClNO5S
reactant | (2R,5S)-1-(4-fluorobenzyl)-2,5-dimethylpiperazine | 0.32 mmol, 73 mg | FC1=CC=C(CN2[C@@H](CN[C@H](C2)C)C)C=C1 | C13H19FN2
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 0.39 mmol, 75 mg | Cl | ClH
reactant | HOBt | 0.03 mmol, 5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-(5-Chloro-2-[(E)-3-[(2R,5S)-4-(4-fluorobenzyl)-2,5-dimethylpiperazin-1-yl]-3-oxopropenyl]-4-methoxyphenyl)-methanesulfonamide | 135 mg, 81% | ClC=1C(=CC(=C(C1)NS(=O)(=O)C)\C=C\C(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)OC | C24H29ClFN3O4S
